US08445510B2
1-{trans-4-[4-(3-{(1S)-1-[2-Chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclohexyl}-L-proline
To a mixture of 4-[4-(3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclohexanone (20.0 mg, 0.0387 mmol), H-L-PRO-OME HCl (64.08 mg, 0.3869 mmol), sodium triacetoxyborohydride (32.80 mg, 0.1548 mmol) and 1,2-dichloroethane (5 mL, 70 mmol) was added triethylamine (39.15 mg, 0.3869 mmol), and the reaction was heated to 50° C. overnight. The material was partitioned between DCM and water, and the organic layer was concentrated in vacuo. Lithium hydroxide monohydrate (8.118 mg, 0.1934 mmol) and MeOH (3 mL, 60 mmol) were added, and the mixture was heated to 50° C. for 3 h. The solution was concentrated in vacuo, and the crude product was redissolved in minimal DMF. The solution was purified via HPLC, and the fractions containing the separate cis and trans products were concentrated in vacuo to afford the title compound as white solid. 1H NMR (400 MHz, CD3OD): δ=1.74-1.83 (m, 2H), 1.84 (d, J=7.3 Hz, 3H), 1.91 (ddd, J=17.1, 6.6, 3.8 Hz, 1H), 1.97-2.14 (m, 5H), 2.18-2.27 (m, 5H), 2.27-2.45 (m, 2H), 3.21-3.29 (m, 1H), 3.33-3.42 (m, 1H), 3.67-3.79 (m, 1H), 4.08 (dd, J=9.7, 4.2 Hz, 1H), 4.22-4.32 (m, 1H), 5.11 (q, J=7.2 Hz, 1H), 6.44 (br. s., 1H), 7.12 (dd, J=8.5, 4.2 Hz, 1H), 7.19 (t, J=8.6 Hz, 1H), 7.37 (d, J=1.8 Hz, 1H), 7.40 (d, J=1.0 Hz, 1H), 7.49 (s, 1H), 8.13 (br. s., 1H). MS (ES+): m/z=616.22/618.20 (100/50) [MH+]. HPLC: tR=1.06 min (polar—2 min, UPLC-ACQUITY).

reactant | 4-[4-(3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclohexanone | 0.0387 mmol, 20.0 mg | ClC1=C(C(=CC=C1F)OC(F)F)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)C2CCC(CC2)=O | C26H24ClF3N4O2
reactant | H-L-PRO-OME HCl | 0.3869 mmol, 64.08 mg | COC(=O)[C@@H]1CCCN1.Cl
reactant | sodium triacetoxyborohydride | 0.1548 mmol, 32.80 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 70 mmol, 5 mL | ClCCCl | C2H4Cl2
reactant | triethylamine | 0.3869 mmol, 39.15 mg | C(C)N(CC)CC | C6H15N
reactant | Lithium hydroxide monohydrate | 0.1934 mmol, 8.118 mg | O.[OH-].[Li+]
reactant | MeOH | 60 mmol, 3 mL | CO | CH4O
product | 1-{trans-4-[4-(3-{(1S)-1-[2-Chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclohexyl}-L-proline | ClC1=C(C(=CC=C1F)OC(F)F)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)[C@@H]2CC[C@H](CC2)N2[C@H](C(=O)O)CCC2 | C31H33ClF3N5O3
